US08580824B2
3-[4-(N-Hydroxycarbamimidoyl)-2,6-dimethyl-phenyl]-propionic acid tert-butyl ester
The title compound is prepared starting from 3,5-dimethyl-4-hydroxybenzonitrile following steps b), c), d), and g) of the preparation of 3-[2-ethyl-4-(N-hydroxycarbamimidoyl)-6-methyl-phenyl]-propionic acid tert-butyl ester; LC-MS: tR=0.75 min, [M+1]+=293.09.

reactant | 3,5-dimethyl-4-hydroxybenzonitrile | CC=1C=C(C#N)C=C(C1O)C | C9H9NO
reactant | 3-[2-ethyl-4-(N-hydroxycarbamimidoyl)-6-methyl-phenyl]-propionic acid tert-butyl ester | C(C)(C)(C)OC(CCC1=C(C=C(C=C1C)C(NO)=N)CC)=O | C17H26N2O3
product | 3-[4-(N-Hydroxycarbamimidoyl)-2,6-dimethyl-phenyl]-propionic acid tert-butyl ester | C(C)(C)(C)OC(CCC1=C(C=C(C=C1C)C(NO)=N)C)=O | C16H24N2O3
